US04609722
Preparation of Nitrilotripropionamide
A Parr autoclave was charged with an aqueous solution of acrylamide and a 10% molar excess of aqueous ammonia. The resulting mixture was warmed to 65° C. and autogenous pressure (<50 psi) and stirred at these conditions for three hours. At the end of this period, the reaction mass was allowed to cool to room temperature and white, crystalline nitrilotripropionamide (melting range 184°-186° C.) was recovered. NMR spectroscopy confirmed the structure.

reactant | acrylamide | C(C=C)(=O)N | C3H5NO
reactant | ammonia | N | H3N
product | Nitrilotripropionamide | N(CCC(=O)N)(CCC(=O)N)CCC(=O)N | C9H18N4O3
